US05326766
2-(4-(5-(Trifluoromethyl)-2-pyridinyloxy)phenyl)ethanol
The (4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)acetic acid ethyl ester (15.6 g, 48 mmol) was then added to a slurry of lithium aluminum hydride (2.3 g, 60 mmol) in ethyl ether (500 mL). The mixture was stirred overnight at room temperature. Then a saturated solution of ammonium chloride in water was added, and the title product, an oil, was separated from remaining solids by filtration. Yield 11 g.

reactant | (4-(5-(trifluoromethyl)-2-pyridinyloxy)phenyl)acetic acid ethyl ester | 48 mmol, 15.6 g | C(C)OC(CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O | C16H14F3NO3
reactant | lithium aluminum hydride | 60 mmol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(4-(5-(Trifluoromethyl)-2-pyridinyloxy)phenyl)ethanol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
